US05298498
[2,3-quinoxalindiyl]bis(methylene) bisphosphonic acid tetramethyl ester
This known compound is prepared by making a solution of quinoxaline (3.16 g, 10 mmol) in hot toluene (20 ml) and treating with trimethylphosphite (2.73 g, 22 mmol). The mixture is heated at reflux temperature for 24 hours. The cooled solution deposits [2,3-quinoxalindiyl]bis(methylene) bisphosphonic acid tetramethyl ester (2.70 g, m.p. 113°-114° C.) after recrystallization from toluene. V.A. Arbuzov et al. Izvest Acad. Nauk SSSR, 1961, 1016; 1954, E 868; (Chem Abstracts (CA) 55:27352b; CA 49:13222e) report a m.p. 115°-116° C.

reactant | quinoxaline | 10 mmol, 3.16 g | N1=CC=NC2=CC=CC=C12 | C8H6N2
reactant | trimethylphosphite | 22 mmol, 2.73 g | COP(OC)OC | C3H9O3P
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | [2,3-quinoxalindiyl]bis(methylene) bisphosphonic acid tetramethyl ester | COP(OC)(=O)CC=1C(=NC2=CC=CC=C2N1)CP(OC)(OC)=O | C14H20N2O6P2
